US06399542B1
0.38 g of methyl isocyanate was added to a solution of 2.0 g of N-[2-(3-methoxyimino-2,3-dihydro-benzofuran-6-yloxymethyl)phenyl]-N-hydroxyamine in 50 ml of tetrahydrofuran, and they were stirred at room temperature for 8 hours. The reaction liquid was concentrated under reduced pressure to obtain 2.3 g of N-[2-(3-methoxyimino-2,3-dihydro-benzofuran-6-yloxymethyl)phenyl]-N-hydroxy-N′-methylurea. This product was dissolved in 20 ml of N,N-dimethylformamide. 0.95 g of methyl iodide and 0.98 g of anhydrous potassium carbonate were added to the solution, and they were stirred at room temperature for 4 hours. The reaction solution was diluted with 200 ml of diethyl ether, washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by the silica gel chromatography (hexane:ethyl acetate) to obtain 1.4 g of the title compound (having a m.p. of 109-112° C. and 1H-NMR data shown in the following table].

reactant | methyl isocyanate | 0.38 g | CN=C=O | C2H3NO
reactant | N-[2-(3-methoxyimino-2,3-dihydro-benzofuran-6-yloxymethyl)phenyl]-N-hydroxyamine | 2.0 g | CON=C1COC2=C1C=CC(=C2)OCC2=C(C=CC=C2)NO | C16H16N2O4
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-[2-(3-methoxyimino-2,3-dihydro-benzofuran-6-yloxymethyl)phenyl]-N-hydroxy-N′-methylurea | 2.3 g | CON=C1COC2=C1C=CC(=C2)OCC2=C(C=CC=C2)N(C(=O)NC)O | C18H19N3O5
